US04863920
10.0 g (26.7 mmol) of 7-chloro-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one, 140 mg of bis-(triphenylphosphine)-palladium(II) dichloride, 40 mg of copper(I) iodide and 3.4 ml (40.3 mmol) of methyl propargyl ether in 100 ml of diethylamine were heated to boiling under reflux for 3.5 hours. The reaction mixture was evaporated and the residue was chromatographed on silica gel while eluting with ethyl acetate. After recrystallization from ethyl acetate there was obtained 7-chloro-4,5-dihydro-3-(3-methoxy-1-propynyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 154°-156°.

reactant | 7-chloro-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 26.7 mmol, 10.0 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1I)C)=O | C12H9ClIN3O
reactant | methyl propargyl ether | 40.3 mmol, 3.4 ml | C(C#C)OC | C4H6O
solvent | diethylamine | 100 ml | C(C)NCC | C4H11N
catalyst | bis-(triphenylphosphine)-palladium(II) dichloride | 140 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 40 mg | [Cu]I
product | 7-chloro-4,5-dihydro-3-(3-methoxy-1-propynyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C#CCOC)C)=O | C16H14ClN3O2
